US05559116
2-[2-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl]-2-phenyl-1,3-indandione
A mixture of 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine (2.2 g, 10 mmol), KCO3 (1.6 g, 11.6 mmol) and 2-toluenesulfonyl-2-phenyl-1,3-indandione (4.2 g, 10 mmol) in acetonitrile (50 ml) was heated at reflux for 3 hours. The mixture was cooled and the insolubles were filtered. The solvent was removed on a rotary evaporator. The residue was purified twice using a flash chromatography column (SiO2, 45 g and 40 g; eluted with DCM). The product thus purified was recrystallized from ethanol (30 ml) and isopropyl ether, yield: 2.8 g, m.p. 149°-150° C.

reactant | 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine | 10 mmol, 2.2 g | FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1 | C12H13FN2O
reactant | 2-toluenesulfonyl-2-phenyl-1,3-indandione | 10 mmol, 4.2 g | C=1(C(=CC=CC1)S(=O)(=O)C1(C(C2=CC=CC=C2C1=O)=O)C1=CC=CC=C1)C | C22H16O4S
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 2-[2-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl]-2-phenyl-1,3-indandione | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCC2(C(C3=CC=CC=C3C2=O)=O)C2=CC=CC=C2)C=C1 | C29H25FN2O3
